US03947417
To a mixture of 15.0 parts of 2-aminobenzophenone, 45 volume parts of acetic acid and 2 volume parts of concentrated hydrochloric acid, a solution of 5.6 parts of sodium nitrite in 16 volume parts of water is added dropwise under ice-cooling and stirring. The mixture is then added dropwise to a solution of 15.0 parts of ethyl β-chloroacetoacetate and 20 parts of potassium acetate in a mixture of 160 volume parts of ethanol and 35 volume parts of water. After 15 minutes precipitated crystals are collected to yield ethyl (2-benzoylphenyl)azochloroacetate as crystals. Recrystallization from ethanol gives yellow needles melting at 119°-120°C.

reactant | 2-aminobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl (2-benzoylphenyl)azochloroacetate | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N=NC(C(=O)OCC)Cl | C17H15ClN2O3
